US05236952
A mixture of 2.78 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone, 1.51 g of 2-aminothiophenol and 50 ml of ethanol is heated to boiling under reflux for 1 hour. The reaction mixture is then cooled to room temperature, whereupon the crystals are removed by filtration under suction. There is obtained 5-(2H-1,4-benzothiazin-3-yl)-3-nitropyrocatechol of m.p. 302°-304° (from N,N-dimethylformamide/methanol).

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 2.78 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 2-aminothiophenol | 1.51 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(2H-1,4-benzothiazin-3-yl)-3-nitropyrocatechol | S1CC(=NC2=C1C=CC=C2)C2=CC(=C(C(O)=C2)O)[N+](=O)[O-] | C14H10N2O4S
